US04273704
To a solution of 4.27 g of methyl Boc-2,6-dimethyl-DL-tyrosyl-D-methioninate in 14 ml of methanol is added a solution of 1.18 g of lithium hydroxide hydrate in 14 ml of water. The reaction mixture is stirred for 3 hours in the cold then 100 ml of a 5% solution of potassium bisulfate is added to bring the pH to 2.5 The gummy product which forms is extracted with ethyl acetate. The ethyl acetate layers are collected and combined, then washed with water and dried over magnesium sulfate. The solution is filtered to remove the magnesium sulfate and the solvent is removed under reduced pressure to give Boc-2,6-dimethyl-DL-tyrosyl-D-methionine.

reactant | methyl Boc-2,6-dimethyl-DL-tyrosyl-D-methioninate | 4.27 g | C(=O)(OC(C)(C)C)NC(CC1=C(C=C(C=C1C)O)C)C(=O)N[C@H](CCSC)C(=O)OC | C22H34N2O6S
reactant | lithium hydroxide hydrate | 1.18 g | O.[OH-].[Li+]
reactant | potassium bisulfate | S([O-])(O)(=O)=O.[K+]
solvent | methanol | 14 ml | CO | CH4O
solvent | water | 14 ml | O | H2O
product | Boc-2,6-dimethyl-DL-tyrosyl-D-methionine | C(=O)(OC(C)(C)C)NC(CC1=C(C=C(C=C1C)O)C)C(=O)N[C@H](CCSC)C(=O)O | C21H32N2O6S
